US04021479
4-(4'-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid by method C
To a solution of 2.75 gm (0.01 mol) of 4-(4'-fluoro-4-biphenylyl)-4-oxo-butyric acid in 50 ml of absolute tetrahydrofuran 0.20 gm (0.005 mol) of lithiumaluminumhydride in 50 ml of absolute tetrahydrofuran was added dropwide, while stirring and cooling at -20° C. After stirring for 4 hours at -20° C., the reaction mixture was poured into ice water and acidified with aqueous 50% sulfuric acid. Subsequently, the mixture was made alkaline by adding aqueous 20% sodium hydroxide, and was again acidified with formic acid. The precipitated semi-solid product was dissolved in ether, and after evaporating the ether, the crystalline residue was dissolved in acetone. From this solution the cyclohexylamine salt of 4-(4'-fluoro-4-biphenylyl)-4-hydroxy-butyric acid was precipitated by addition of cyclohexylamine, and the salt was recrystallized from ethyl acetate/absolute ethanol. Melting point 176°-178° C. (decomp.); yield: 2.2 gm.

reactant | 4-(4'-fluoro-4-biphenylyl)-4-oxo-butyric acid | 0.01 mol, 2.75 gm | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13FO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formic acid | C(=O)O | CH2O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 0.005 mol, 50 ml, 0.20 gm | O1CCCC1 | C4H8O
product | 4-(4'-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15FO3
